US09445594B2
Preparation of 4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)aniline (C2)
To 3-bromo-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (5.64 g, 18.35 mmol) was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (7.42 g, 33.9 mmol), tetrakis(triphenylphosphine) palladium(0) (3.30 g, 2.86 mmol), and potassium carbonate (7.82 g, 56.6 mmol) in 1,2-dimethoxyethane (75 mL) and water (18 mL). The mixture was degassed with nitrogen for 10 minutes. The reaction mixture was heated at 120° C. for 20 h. The reaction was cooled to room temperature and diluted with ethyl acetate (100 mL). The resultant salts were filtered and the filtrated layers were separated. The aqueous layer was separated with ethyl acetate (2×25 mL). The combined organic layers were dried over anhydrous magnesium sulfate and concentrated onto Celite®. Purification by silica gel chromatography using 0-100% ethyl acetate/hexanes as eluent provided the title compound as a yellow solid (4.16 g, 68%): 1H NMR (400 MHz, CDCl3) δ 8.60 (s, 1H), 8.03-7.97 (m, 2H), 7.88 (d, J=8.4 Hz, 2H), 7.77 (d, J=8.5 Hz, 2H), 6.79-6.74 (m, 2H), 3.88 (s, 2H); 13C NMR (101 MHz, CDCl3) δ 163.94, 148.07, 139.68, 129.67, 129.34, 128.04, 127.07, 127.04, 127.00, 126.96, 125.05, 120.50, 119.35, 114.87; 19F NMR (376 MHz, CDCl3) δ −62.43; ESIMS m/z 305.1 ([M+H]+).

reactant | 3-bromo-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 18.35 mmol, 5.64 g | BrC1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C9H5BrF3N3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 33.9 mmol, 7.42 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | potassium carbonate | 56.6 mmol, 7.82 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 75 mL | COCCOC | C4H10O2
solvent | water | 18 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 2.86 mmol, 3.30 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)aniline | 4.16 g, 68% | FC(C1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(N)C=C1)(F)F | C15H11F3N4
